AGC private fixture
.include system.lib
* Transistor-level AGC controller
* Ports: detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss

* ---- Differential input filter (600 ohm each leg, 150 fF diff) ----
Rfp detp net_fp 600
Rfn detn net_fn 600
Cdiff net_fp net_fn 150f

* ---- NPN emitter followers isolate the filter ----
Qefp vcc net_fp net_ep QN_SYS
Qefn vcc net_fn net_en QN_SYS

* ---- BJT current-mirror sinks for the emitter followers ----
Qmir_r net_mref net_mref vss QN_SYS
Rmir   vcc net_mref 10k
Qmir_p net_ep  net_mref vss QN_SYS
Qmir_n net_en  net_mref vss QN_SYS

* ---- Stage 1: closed-loop diff amp, realized gain ~13.97 V/V ----
* pkd = agc_pkd_ref + G1*(net_ep - net_en)
* Rf/Rg trimmed above 13.97 to cancel EF attenuation / finite Aol.
Rg1n net_en      amp1_inn 5k
Rf1  pkd         amp1_inn 71.4k
Rg1p net_ep      amp1_inp 5k
Rf1r agc_pkd_ref amp1_inp 71.4k
Xamp1 amp1_inn amp1_inp pkd vcc vss local_opamp

* ---- Stage 2: compare pkd with oa path, generate agc ----
* agc = oa + G2*(agc_ref - pkd),  G2 = Rf2/Rg2 = 0.475
* At mid-scale oa (1.3 V) this yields ~1.399 V / ~1.200 V
* at the 20 mV / 50 mV detector points; agc falls as pkd rises.
Rg2n pkd     amp2_inn 10k
Rf2  agc     amp2_inn 4.75k
Rg2p agc_ref amp2_inp 10k
Rf2r oa      amp2_inp 4.75k
Xamp2 amp2_inn amp2_inp agc vcc vss local_opamp

.ends candidate

* ============================================================
* Local CMOS two-stage Miller op-amp (used exactly twice above)
*   - NMOS differential pair
*   - NMOS tail current source
*   - PMOS active current-mirror load
*   - PMOS common-source second gain stage with NMOS load
*   - Miller compensation capacitor
* ============================================================
.subckt local_opamp inn inp out vcc vss
* Bias (~40 uA reference)
Rbias vcc nref 35k
Mnref  nref nref vss vss NMOS_SYS W=10u L=2u
Mntail tail nref vss vss NMOS_SYS W=20u L=2u
Mnload out  nref vss vss NMOS_SYS W=40u L=2u

* Stage 1: NMOS diff pair + PMOS mirror load
Mn1 o1  inn tail vss NMOS_SYS W=50u L=1u
Mn2 o1p inp tail vss NMOS_SYS W=50u L=1u
Mp3 o1  o1  vcc vcc PMOS_SYS W=30u L=1u
Mp4 o1p o1  vcc vcc PMOS_SYS W=30u L=1u

* Stage 2: PMOS common-source
Mp5 out o1p vcc vcc PMOS_SYS W=100u L=1u

* Miller compensation
Cc out o1p 2p
.ends local_opamp


VCC vcc 0 3.3
VOA oa 0 1.2
VPKDREF agc_pkd_ref 0 0.8
VAGCREF agc_ref 0 1.2864
VDETN detn 0 3.15
VDETD detp detn PWL(0 0 1u 0 1.01u 20m 3u 20m 3.01u 50m 5u 50m 5.01u 0 6u 0 6.01u 20m 8u 20m 8.01u 50m 10u 50m)
RLOAD agc 0 1Meg
CLOAD agc 0 10p
XDUT detp detn oa pkd agc agc_pkd_ref agc_ref vcc 0 candidate

.control
set wr_vecnames
set wr_singlescale
tran 1n 10u
wrdata tran.dat v(pkd) v(agc)
quit
.endc
.end
