* Transistor-level AGC controller
* Local two-stage Miller CMOS op-amp (used twice)
.subckt amp inn inp out vcc vss
* Bias
Mb1 b1 b1 vcc vcc PMOS_SYS W=20u L=2u
Rb  b1 vss 80k
Mb2 b2 b1 vcc vcc PMOS_SYS W=20u L=2u
Mb3 b2 b2 vss vss NMOS_SYS W=10u L=2u
* Tail current source
Mt1 t b2 vss vss NMOS_SYS W=40u L=2u
* NMOS differential pair
M1 d1 inn t vss NMOS_SYS W=80u L=1u
M2 d2 inp t vss NMOS_SYS W=80u L=1u
* PMOS active load
M3 d1 d1 vcc vcc PMOS_SYS W=40u L=2u
M4 d2 d1 vcc vcc PMOS_SYS W=40u L=2u
* Second gain / output stage
M5 out d2 vcc vcc PMOS_SYS W=120u L=1u
M6 out b2 vss vss NMOS_SYS W=60u L=2u
* Miller compensation
Rc d2 cz 1k
Cc cz out 4p
.ends amp

.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
* Differential detector input filter
Rf1 detp nfp 600
Rf2 detn nfn 600
Cf  nfp nfn 150f

* NPN emitter-follower isolation
Qef1 vcc nfp ep QN_SYS
Qef2 vcc nfn en QN_SYS

* NPN current-mirror sinks
Rset vcc mirr 4.5k
Qref mirr mirr vss QN_SYS
Qs1  ep   mirr vss QN_SYS
Qs2  en   mirr vss QN_SYS

* Closed-loop stage 1: pkd = agc_pkd_ref + 13.97*(ep - en)
R1a en  nin1 50k
R2a nin1 pkd 699.7k
R1b ep  nip1 50k
R2b nip1 agc_pkd_ref 699.7k
X1 nin1 nip1 pkd vcc vss amp

* Closed-loop stage 2: sum pkd and oa vs agc_ref -> agc
Rpkd pkd nin2 100.03k
Roa  oa  nin2 268.4k
Rfb  agc nin2 47.5k
X2 nin2 agc_ref agc vcc vss amp
.ends candidate
