* Transistor-level AGC controller
.subckt amp inn inp out vcc vss
* Two-stage CMOS op-amp:
* NMOS differential pair, NMOS tail, PMOS active mirror load,
* PMOS common-source gain stage, Miller RC compensation.
Rbias vcc bb 100k
Mbn bb bb vss vss NMOS_SYS W=5u L=2u
Mtail t bb vss vss NMOS_SYS W=20u L=2u
Md1 d1 inn t vss NMOS_SYS W=40u L=1u
Md2 d2 inp t vss NMOS_SYS W=40u L=1u
Mp1 d1 d1 vcc vcc PMOS_SYS W=20u L=1u
Mp2 d2 d1 vcc vcc PMOS_SYS W=20u L=1u
Mout out d2 vcc vcc PMOS_SYS W=80u L=1u
Mnout out bb vss vss NMOS_SYS W=40u L=2u
Cc out midc 1p
Rc midc d2 1.5k
.ends amp

.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
* Differential detector filter: 600 ohm per leg, 150 fF differential
Rfilt1 detp f1 600
Rfilt2 detn f2 600
Cfilt f1 f2 150f

* NPN emitter-follower isolation with NPN current-mirror sinks
Rmbias vcc mb 25k
Qmbias mb mb vss QN_SYS
Qs1 e1 mb vss QN_SYS m=4
Qs2 e2 mb vss QN_SYS m=4
Qf1 vcc f1 e1 QN_SYS
Qf2 vcc f2 e2 QN_SYS

* First closed-loop stage: differential gain 13.97 V/V
* pkd = agc_pkd_ref + (Rf/Rin)*(buffered_detp - buffered_detn)
Rin_a e2 hn 50k
Rf_a hn pkd 701k
Rin_b e1 hp 50k
Rf_b hp agc_pkd_ref 701k
X1 hn hp pkd vcc vss amp

* Second stage: compare pkd with oa to generate agc
* agc = Vref + 0.475*(oa - pkd), decreasing as detector amplitude rises
R2in_a pkd gn 100k
R2f_a gn agc 47.5k
R2in_b oa gp 100k
R2f_b gp vref 47.5k
* Vref from agc_ref (pulled slightly toward vcc for DC target centering)
Rvr1 vcc vref 20k
Rvr2 vref agc_ref 578
X2 gn gp agc vcc vss amp

.ends candidate
