AGC private fixture
.include system.lib
* Transistor-level AGC controller
* Local two-stage Miller CMOS op-amp, instantiated twice.

.subckt ampc inp inn out vcc vss
* Bias
Mb b b vss vss NMOS_SYS W=8u L=2u
Rb vcc b 45k
* Tail current source
Mt t b vss vss NMOS_SYS W=32u L=2u
* NMOS differential pair (inp = non-inverting)
M1 n1 inn t vss NMOS_SYS W=40u L=1u
M2 n2 inp t vss NMOS_SYS W=40u L=1u
* PMOS active current-mirror load
Mp1 n1 n1 vcc vcc PMOS_SYS W=20u L=1u
Mp2 n2 n1 vcc vcc PMOS_SYS W=20u L=1u
* Second gain / output stage
Mp3 out n2 vcc vcc PMOS_SYS W=80u L=1u
Mn3 out b vss vss NMOS_SYS W=32u L=2u
* Miller compensation
Cc n2 out 800f
.ends ampc

.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
* --- Differential detector input filter ---
Rfp detp fp 600
Rfn detn fn 600
Cf fp fn 150f

* --- NPN emitter-follower isolation ---
Qef_p vcc fp ep QN_SYS
Qef_n vcc fn en QN_SYS

* --- NPN current-mirror sinks ---
Rset vcc ibias 5k
Qref ibias ibias vss QN_SYS
Qs_p ep ibias vss QN_SYS
Qs_n en ibias vss QN_SYS

* --- Stage 1: closed-loop gain 13.97 -> pkd ---
* pkd = agc_pkd_ref + (Rf/Rg)*(ep - en)
Rg_p ep  ninv1 40.1k
Rf_p agc_pkd_ref ninv1 560k
Rg_n en  inv1 40k
Rf_n pkd inv1 560k
Xpkd ninv1 inv1 pkd vcc vss ampc

* --- Stage 2: compare pkd with oa -> agc ---
* Diff-amp with unmatched + side so agc falls as pkd rises:
*   agc ≈ 1.399 V @ 20 mV and 1.200 V @ 50 mV (oa = 1.4 V)
R1 oa      ninv2 100k
R2 agc_ref ninv2 9.54k
R3 pkd     inv2  100k
R4 agc     inv2  47.5k
Xagc ninv2 inv2 agc vcc vss ampc
.ends candidate


VCC vcc 0 3.3
VOA oa 0 1.2
VPKDREF agc_pkd_ref 0 0.8
VAGCREF agc_ref 0 1.2864
VDETN detn 0 3.15
VDETD detp detn PWL(0 0 1u 0 1.01u 20m 3u 20m 3.01u 50m 5u 50m 5.01u 0 6u 0 6.01u 20m 8u 20m 8.01u 50m 10u 50m)
RLOAD agc 0 1Meg
CLOAD agc 0 10p
XDUT detp detn oa pkd agc agc_pkd_ref agc_ref vcc 0 candidate

.control
set wr_vecnames
set wr_singlescale
tran 1n 10u
wrdata tran.dat v(pkd) v(agc)
quit
.endc
.end
