* Transistor-level AGC controller
* Local two-stage Miller CMOS op-amp used twice (pkd and agc).
.subckt opamp_cmos inp inn out vcc vss
* --- bias (resistor + NMOS diode, PMOS mirror reference) ---
Rbias  vcc   biasn  60k
Mbn    biasn biasn  vss  vss  NMOS_SYS W=5u L=2u
Mbp_s  biasp biasn  vss  vss  NMOS_SYS W=5u L=2u
Mbp    biasp biasp  vcc  vcc  PMOS_SYS W=10u L=2u
*
* --- stage 1: NMOS diff pair, NMOS tail, PMOS active mirror load ---
Mtail  tail  biasn  vss  vss  NMOS_SYS W=25u L=1u
M1     n1    inn    tail vss  NMOS_SYS W=40u L=1u
M2     n2    inp    tail vss  NMOS_SYS W=40u L=1u
M3     n1    n1     vcc  vcc  PMOS_SYS W=25u L=1u
M4     n2    n1     vcc  vcc  PMOS_SYS W=25u L=1u
*
* --- stage 2: PMOS common-source + NMOS current-source load ---
M5     out   n2     vcc  vcc  PMOS_SYS W=100u L=1u
M6     out   biasn  vss  vss  NMOS_SYS W=30u L=1u
*
* --- physical Miller compensation ---
Rc     n2    nc     600
Cc     nc    out    1.2p
.ends opamp_cmos

.subckt candidate detp detn oa pkd agc agc_pkd_ref agc_ref vcc vss
* --- differential detector input filter ---
Rf_p   detp  filtp  600
Rf_n   detn  filtn  600
Cf     filtp filtn  150f
*
* --- NPN emitter-follower isolation with NPN current-mirror sinks ---
Qef_p  vcc   filtp  bufp  QN_SYS
Qef_n  vcc   filtn  bufn  QN_SYS
Rmirr  vcc   mirr   6k
Qm_ref mirr  mirr   vss   QN_SYS
Qm_p   bufp  mirr   vss   QN_SYS
Qm_n   bufn  mirr   vss   QN_SYS
*
* --- stage 1: closed-loop differential amplifier -> pkd ---
* overall det-to-pkd gain ~= 13.97 V/V about agc_pkd_ref
R1a    bufn  n_s1n  10k
R2a    n_s1n pkd    140.9k
R1b    bufp  n_s1p  10.04k
R2b    n_s1p agc_pkd_ref  140.9k
X1     n_s1p n_s1n  pkd   vcc vss  opamp_cmos
Cp_kd  pkd   vss    100f
*
* --- stage 2: compare pkd with oa -> agc ---
* agc falls as detector difference (and pkd) rises
R3a    pkd   n_s2n  20k
R4a    n_s2n agc    9.5k
R3b    oa    n_s2p  20k
R4b    n_s2p agc_ref  1.9k
X2     n_s2p n_s2n  agc   vcc vss  opamp_cmos
Cagc   agc   vss    0.5p
.ends candidate
